Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
peanuts
 
Attending: ___.
 
Chief Complaint:
"Nervous"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per Dr. ___ ___ resident accept note:
.
Per Dr. ___ ED Initial Psychiatry Consult 
note:
___ is a ___ year old woman with a self-reported 
history of major depressive disorder, PTSD, and bulimia nervosa 
who self-presented to the ___ ED due to worsening depression 
and suicidal ideation with active intent and multiple possible 
plans. Psychiatry is consulted to perform a safety assessment 
and assist with dispo planning and management.
.
On interview with this writer the patient reports a decline in 
mood over the last ___ weeks with associated decline in mood, 
feelings of guilt, hypersomnia, impaired concentration (feeling 
of "fogginess"), anhedonia, and amotivation. Over the last week 
or so she began to develop suicidal ideation with active intent. 
She denies having any current plan to attempt suicide but 
worries that she would impulsively attempt suicide in the 
community (She states "I think I would just decide then do it 
right away"). She reports she has considered potential plans for 
suicide in the past including carbon monoxide poisoning (via 
parking running car in an enclosed space or crashing her car at 
a high speed).
.
On ___ the patient reached out to her therapist ___ 
and reported feeling unsafe. She was able to contract for safety 
and agreed to present to the ___ ED if she felt acutely unsafe 
or had active intent or plan to attempt suicide. On ___ the 
patient drank heavily and in the setting of acute intoxication 
took her QHS Trazodone. She worried this may be dangerous but 
did not care about any potential consequences of this action. 
She contacted Ms. ___ again on ___ (two days prior to this 
presentation) stating that she felt unsafe again. She was again 
able to contract for safety after discussion with Ms. ___. On 
the day of presentation the patient emailed Ms. ___ stating
that she felt increasingly unsafe and worried that she may 
impulsively attempt suicide. She agreed to present to the ___ 
ED at Ms. ___ instructions. Per the patient, Ms. ___ 
advised the patient to alert EMS and not to drive herself (given 
concern she may crash). Patient reports she decided against this 
and drove herself to the ED.
.
The patient reports a history of bulimia nervosa with recurrence 
of binging and purging (vomiting) and restrictive food intake 
over the last two weeks in the setting of mood decline. She 
denies recent use of laxatives, diuretics, diet pills, or other 
agents to lose weight (though she has used these methods in the
past). She states that she chronically struggles with body 
perception and concern that she is overweight.
.
She reports a chronic history of flashbacks, hyper-vigilance, 
and nightmares. She had one possible flashback last week in the 
setting of work stress. The patient denies paranoia or visual 
hallucinations. On the morning of presentation the patient 
experienced possible auditory hallucinations described as "wind" 
or "like a ghost oooh-ing." She has never experienced this in 
the past or recently. 
.
COLLATERAL:
With the patient's permission this writer spoke with her 
outpatient therapist ___, ___ 
main ___ line ___. Ms. ___ reports that the 
patient's depressive symptoms have declined over the last 
several weeks potentially due to start of new school year 
(patient is a ___ school ___). The patient contacted Ms. 
___ several times over the last week or so reporting that she 
felt "unsafe with herself." During initial calls the patient 
agreed to safety plan in the community which included presenting 
to the ___ ED if she felt acutely suicidal. The patient has 
made self-harm gestures in the past including recently taking 
sleep medications while intoxicated (which patient believed may 
cause physical harm), driving erratically while binge eating, 
and purging (vomiting) on the side of a road in an unknown 
neighborhood. On the day of presentation the patient emailed Ms. 
___ reporting worsening suicidal ideation and impulsive urges 
to self-harm. Ms. ___ advised the patient to present to the 
___ ED (resulting in this presentation). Ms. ___ is in 
agreement with plan for inpatient psychiatric hospitalization."
.
In the ED, patient was calm and cooperative. Patient received 
lab work including blood draws.Did not receive any medications. 
Reports taking qAM home medications (Effexor 225mg and Lamictal 
150mg) prior to arrival. 
.
On arrival to DEAC 4 at 21:30 on ___ Ms. ___, 
is visibly tearful on interview. Prior to arriving on the unit 
she reports that a patient in the ED was chemically restrained 
and this was visibly upsetting. Ms. ___ reports that she 
presented to the ED today after struggling with symptoms of
depression that have been progressively worsening over the last 
several weeks. She denies intrusive or command suicidal ideation 
though notes that she has felt "out of control" and a vague 
sense that something was going to happen if she didn't present 
to the ED. Per the patient, she tried contacting therapist 
multiple times over the course of the week and was originally 
able to contract for safety but that this escalated today in 
intensifying feelings that she did not feel safe. Patient is 
currently a graduate student at ___ and did well in summer 
classes. Two weeks ago she started the internship part of the 
curriculum where she is responsible for teaching high school 
students physics/chemistry/math. She states that this has been 
stressful both because of discipline issues but also because she 
is not all that familiar with the physics and math curricula. 
She endorses worsening depressive symptoms over the last week 
including worthlessness, hypersomnia, anhedonia, feelings of 
"numbness" and amotivation. Despite this she reports that she 
has been able to make it to her regularly scheduled teaching 
sessions. Earlier today however, she states that she was 
minimally engaged/interactive with class, and showed movies in 
all her classes because she just wasn't able to teach.
REVIEW OF SYSTEMS:
 -Psychiatric: 
Positive per HPI
+flashbacks and nightmares related to trauma
Denies
insomnia, panic, distractibility, grandiosity, flight of ideas, 
increased activity, decreased need for sleep, or 
talkativeness/pressured speech, denies current auditory 
hallucinations, or delusions of reference, paranoia, thought 
insertion/broadcasting/withdrawal.
.
-General: Denies fatigue, fever, chills, nightsweats, headache, 
focal numbness, changes in vision, cough, SOB, CP, palpitations, 
abdominal pain, nausea, vomiting, diarrhea, constipation, 
dysuria, rash, joint pain.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Hospitalizations: 1 for Eating Disorder ___ in ___) for
one month duration --> PHP --> IOP in ___
-Psychiatrist: ___, M.D. 
-Therapist: ___ in ___ ___
-Mediation Trials: 
Prozac (depression, duration unknown, non responsive) 
Abilify(depression augmentation; could not tolerate "akathisia")
-Self injury: Cutting, scratching (last week)
-Suicide Attempts: Denies
-Trauma: History of two past traumatic relationships with 
teachers/professors ___ physical contact and 
communication; no physical abuse or sexual contact).
.
PAST MEDICAL HISTORY:
none disclosed
 
Social History:
SOCIAL HISTORY:
___
Family History:
-Father = ___ Grandmother = ___
 
Physical Exam:
VITAL SIGNS:
Temp 98 
HR 83 
BP 142/83 
RR 16 
Oxygen Saturation 100% RA 

EXAM:
General:
-HEENT: Normocephalic, atraumatic. Moist mucous membranes, 
oropharynx clear. No scleral icterus, 
-Cardiovascular: Regular rate and rhythm, normal S1,S2, no 
murmurs/rubs/gallops. 
-Pulmonary: No increased work of breathing.  Lungs clear to 
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive. 
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.
.
Neurological:
-Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: pupils 4-->2mm, equal, round, reactive
 ---III, IV, VI: EOMI, saccades
 ---V: Masseter ___ bilaterally
 ---VII: nasolabial folds symmetric bilaterally
 ---VIII: deferred
 ---IX, X: Palate elevates symmetrically
 ---XI:  trapezii ___ symmetric bilaterally
 ---XII: Tongue protrudes midline
-Motor: Normal bulk and tone bilaterally. Strength ___ in 
deltoids, biceps, triceps, quadriceps, hamstrings,
-Sensory: deferred
-DTRs: 2+ patellar, deltoid, brachioradialis
-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  
Absence of resting tremor, absence of action tremor
Absence of rigidity or spasticity
.
Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: WORLD backwards w/ 0 errors
-Orientation: ___ ___, 
summer
-Executive function (go-no go, Luria, trails, FAS): 
     absence of ideomotor apraxia: able to brush teeth, comb 
hair
-Memory: ___ after ___ (unable to guess church with 
hints)
-Fund of knowledge: Consistent with education; intact to last 3 
presidents
-Calculations: deferred
-Abstraction: grass is greener on other side = other persons 
situation might look better from where you are standing
-Visuospatial: L thumb to R. ear
-Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation
.
Mental Status:
-Appearance/Behavior:
     overweight female appearing stated age in hospital gown, 
good eye contact, absence of psychomotor agitation, visibly 
tearful. 
-Attitude: Cooperative, engaged, friendly
-Mood: "nervous"
-Affect: Mood-congruent, full range, appropriate to situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose 
associations
-Thought Content:
 ---Safety: Denies SI/HI
 ---Delusions: No evidence of paranoia, etc. 
 ---Obsessions/Compulsions: No evidence based on current 
encounter
 ---Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
-Insight: poor
-Judgment: fair
 
Pertinent Results:
___ 03:40PM BLOOD WBC-9.9 RBC-3.94 Hgb-12.0 Hct-36.7 MCV-93 
MCH-30.5 MCHC-32.7 RDW-12.7 RDWSD-43.5 Plt ___
___ 03:40PM BLOOD Neuts-69.8 ___ Monos-7.6 Eos-1.3 
Baso-0.7 Im ___ AbsNeut-6.91* AbsLymp-2.01 AbsMono-0.75 
AbsEos-0.13 AbsBaso-0.07
___ 06:52AM BLOOD WBC-7.7 RBC-3.90 Hgb-12.2 Hct-36.9 MCV-95 
MCH-31.3 MCHC-33.1 RDW-13.0 RDWSD-44.4 Plt ___
___ 03:40PM BLOOD Glucose-100 UreaN-11 Creat-0.8 Na-142 
K-4.2 Cl-104 HCO3-25 AnGap-13
___ 06:52AM BLOOD Glucose-93 UreaN-11 Creat-0.5 Na-140 
K-4.4 Cl-102 HCO3-25 AnGap-13
___ 06:52AM BLOOD ALT-10 AST-12 AlkPhos-95 TotBili-0.3
___ 06:52AM BLOOD Calcium-9.2 Phos-4.2 Mg-2.0
___ 06:52AM BLOOD TSH-2.7
___ 06:52AM BLOOD HCG-<5
___ 03:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 03:47PM URINE Color-Straw Appear-Hazy* Sp ___
___ 03:47PM URINE Blood-MOD* Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.0 Leuks-NEG
___ 03:47PM URINE RBC-9* WBC-0 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 03:47PM URINE AmorphX-OCC*
___ 03:47PM URINE UCG-NEGATIVE
___ 03:47PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
. 
2. PSYCHIATRIC:
#) Bulimia Nervosa with suicidal ideation 
.
Ms. ___ is a ___ year old graduate student with a history of 
major depressive disorder (with history of non-suicidal 
self-injury, no past suicide attempts, and no past admissions 
for mood symptoms), PTSD, and bulimia nervosa (one past 
admission to residential Eating Disorder program for one month) 
who self-presented to the ED due to acute suicidal ideation with 
active intent and multiple possible plans. The patient reported 
decline in depressive symptoms over the last two weeks with 
increased impulsivity and risky behaviors. Within that two week 
time frame she has begun to restrict her PO intake and 
binge/purge similar to past episodes of bulimia nervosa. 
Additionally she reported a history of PTSD with recent 
flashbacks and nightmares. Collateral from the patient's 
outpatient therapist was concerning for decompensation over the 
few weeks prior to admission with the patient seeming 
increasingly impulsive with worsening suicidal ideation. Initial 
exam was notable for pleasant young woman with appropriate 
grooming and hygiene, dysphoric affect, and intermittent 
tearfulness. Initial lab studies in the ED were notable for 
negative toxicology screens.
.
The patient upon admission reported mood symptoms including 
anhedonia, hypersomnia, numbness, worthlessness, impaired 
concentration, and amotivation in the setting of increasing 
stressors, but despite quick improvement in most of these 
symptoms and resolution of suicidal thoughts, the patient's 
restricting and purging behaviors persisted with restricted 
caloric intake and intermittent self-induced vomiting. While the 
patient's presentation at admission was concerning for an 
unspecified depressive disorder, the rapidity of resolution of 
most depressive symptoms with persistence of symptoms related to 
the patient's underlying eating disorder leads us to believe 
that her decompensation is likely best understood as a 
manifestation of her bulimia nervosa. For improved mood 
stability, that patient's Lamictal was increased to a total of 
200 mg PO QHS by time of discharge. The patient tolerated well 
this change in dose and found it to be helpful for her mood. Of 
note, patient's reported history of impulsivity and impaired 
concentration/inattention lead us to consider whether or not the 
patient might have co-morbid ADHD and whether or not she might 
benefit from a trial of stimulant in the future. Mental status 
exam on discharge notable for improved mood, full-ranged bright 
affect, linear and future oriented thought process, denial of 
SI, HI or AVH, and good insight and judgment. 
.
3. SUBSTANCE USE DISORDERS:
None
.
4. MEDICAL
None
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. She was often visible in the 
milieu and was appropriate in her interactions with peers and 
staff alike without ever requiring restraint or seclusion. 
.
#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
The patient's family was involved in the patient's treatment and 
discharge planning, and was provided with the opportunity to 
discuss the patient's diagnosis and treatment with the primary 
treatment team. The patient's family was supportive of the 
patient's treatment and aftercare plan. 
.
#) INTERVENTIONS
- Medications: Lamotrigine and Venlafaxine
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: provided patient with residential 
treatment intake for eating disorder treatment 
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon increased 
impulsivity and suicidal ideation with plan.  Her static factors 
which chronically elevate her risk noted at that time include 
her history of abuse, history of self-injurious behaviors, 
chronic mental illness, Caucasian race, and her age. At the time 
of admission, she was also felt to be at acutely elevated risk 
due to her modifiable risk factors including her suicidal 
ideation with intent/plan, feeling trapped, decreased 
self-esteem, acutely stressful events, hopelessness, limited 
coping skills, and her impulsivity.  These modifiable risk 
factors were addressed during her admission via medication 
adjustment, acute stabilization within a therapeutic milieu, 
individual and group therapy, coordination with outpatient 
providers, and aftercare planning.  Finally, the patient is 
being discharged with many protective risk factors, including 
her help-seeking nature, future-oriented viewpoint, sense of 
responsibility to family, reality testing ability, good coping 
skills, good problem-solving skills, positive therapeutic 
relationship with outpatient providers, lack of suicidal 
ideation, no history of substance use disorder, and strong 
social supports. Thus, the patient does not meet section 12a 
criteria for risk of harm to self. Overall, the patient is not 
at an acutely elevated risk of self-harm due to acutely 
decompensated psychiatric illness at this time.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraZODone 50 mg PO QHS:PRN insomnia 
2. LamoTRIgine 150 mg PO QAM 
3. LORazepam 0.5 mg PO TID:PRN anxiety 
4. Venlafaxine XR 225 mg PO QAM 

 
Discharge Medications:
1.  LamoTRIgine 200 mg PO QHS 
2.  TraZODone 50 mg PO QHS:PRN insomnia 
3.  Venlafaxine XR 225 mg PO QAM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
bulimia nervosa

 
Discharge Condition:
VS: BP 138/83; HR 76; RR 18; oxygen sat 100%  
Mental Status:
-Appearance: ___ woman appearing stated age, well
groomed, wearing casual clothing, in no apparent distress
-Behavior: Sitting up, appropriate eye contact, no psychomotor
agitation or retardation
-Attitude: Cooperative, engaged, friendly
-Mood: 'OK'
-Affect: Mood-congruent, full range, appropriate to situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Fair
-Judgment: Fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___